US07638517B2
To a RT suspension of N-methyl-3-phenyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-propionamide (54 mg, 0.19 mmol) in THF (5 ml) was added LiAlH4 (0.38 ml, 1M in THF) at room temperature. The resulting mixture was refluxed for 4 h, then the same amount of LiAlH4 was added. The resulting mixture was refluxed overnight, cooled to RT, quenched by addition of Na2SO4.10H2O. The mixture was stirred for 30 min and the solid was filtered off and washed with EtOAc. The filtrate was concentrated and purified via flash chromatography (DCM/MeOH/NH4OH) affording N-Methyl-[3-phenyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-propyl]amine as a white foam (28 mg, 56% yield); MS M+H=266.

reactant | N-methyl-3-phenyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-propionamide | 0.19 mmol, 54 mg | CNC(CC(C1=CNC2=NC=CC=C21)C2=CC=CC=C2)=O | C17H17N3O
reactant | LiAlH4 | 1M, 0.38 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-Methyl-[3-phenyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-propyl]amine | 28 mg, 56% yield | CNCCC(C1=CNC2=NC=CC=C21)C2=CC=CC=C2 | C17H19N3
